US09035062B2
Step 6: (2R,5S)-6-Hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide (r)
190 mg of (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide was dissolved in methanol (6.9 mL), and 40 mg of 10% palladium carbon (50% water content) was added, followed by stifling for 1.5 hours under hydrogen atmosphere. The catalyst of the reaction mixture was filtered through celite, and the solvent was concentrated under reduced pressure and dried under vacuum to afford 126 mg of the title compound as a colorless solid (quantitative).

reactant | (2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | 190 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)N | C14H17N3O3
solvent | methanol | 6.9 mL | CO | CH4O
catalyst | palladium carbon | 40 mg | [C].[Pd]
product | (2R,5S)-6-Hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxamide | 126 mg | ON1[C@H]2CC[C@@H](N(C1=O)C2)C(=O)N | C7H11N3O3
